US08202873B2
Dissolve 3-phenyl-pyridine 1-oxide (1.0 g, 5.84 mmol) in phosphorus oxychloride (14 mL, 153 mmol). Heat the reaction to 105° C. for 6 hours, cool to ambient temperature and pour reaction mixture slowly onto ice with stirring to quench the excess phosphorus oxychloride. Basify with concentrated ammonium hydroxide and extract with dichloromethane. Wash the organic extract with brine, dry over sodium sulfate, filter and concentrate under reduced pressure. Purify the residue by silica gel chromatography (eluent: ethyl acetate-hexanes) to give 315 mg (28%) of 2-chloro-3-phenyl-pyridine as a yellow liquid. MS (m/z): 190 (M+1, 100), 192 (M+1, 60). 1H NMR (400 MHz, DMSO-d6) δ 8.42 (dd, 1H, J=4.6, 2.0 Hz), 7.87 (dd, 1H, J=7.5, 1.8 Hz), 7.54-7.41 (m, 6H). 1-(3-phenyl-pyridin-2-yl)-piperazine: Heat a mixture of 2-chloro-3-phenyl-pyridine (1.12 g, 5.9 mmol) and piperazine (5.08 g, 59.0 mmol) in a sealed tube at 165° C. for 23 hours. Cool to ambient temperature. Dissolve the reaction mixture in water and ethyl acetate. Extract the aqueous layer with ethyl acetate (3×). Wash the organic extracts with water (2×) and brine. Re-extract the water washes with ethyl acetate. Combine all ethyl acetate extracts, dry over sodium sulfate, filter and concentrate under reduced pressure. Purify the residue by silica gel chromatography (eluent: 2N ammonia in methanol-dichloromethane) to give 1.36 g (96%) of the title preparation as a yellow oil. HRMS-FAB (m/z): [M+H]+ calc'd for C15H18N3, 240.1500; found, 240.1492.

reactant | 3-phenyl-pyridine 1-oxide | 5.84 mmol, 1.0 g | C1(=CC=CC=C1)C=1C=[N+](C=CC1)[O-] | C11H9NO
reactant | phosphorus oxychloride | 153 mmol, 14 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-3-phenyl-pyridine | 315 mg, 28% | ClC1=NC=CC=C1C1=CC=CC=C1 | C11H8ClN
